US05990101
c) 3-methoxycarbonylaminoimidazo[5,1-b]thiazole
A 1.17 ml portion of phosphorus oxychloride was added to a suspension formed by adding 2.8 ml of dry toluene to 560 mg of 2-(formylamino)methyl-4-methoxycarbonylaminothiazole, and the mixture was then stirred at an oil temperature of 100° C. for 45 minutes. Then, the solvent was evaporated under reduced pressure, and 30 ml of dichloromethane and 10 ml of a 15% aqueous potassium carbonate solution were then added to the resulting residue to adjust the solution to pH 9.5. The organic layer was separated, and the aqueous layer was then salted out with sodium chloride. Afterward, extraction was carried out three times with 30 ml of dichloromethane, and the extract was then combined with the above organic layer. The solution was dried (magnesium sulfate), and then filtered. Further, the solvent was evaporated under reduced pressure to obtain a milky white powder, and this powder was then purified by a silica gel column chromatograph to obtain 417.5 mg of the title compound as a colorless powder.

reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(formylamino)methyl-4-methoxycarbonylaminothiazole | 560 mg | C(=O)NCC=1SC=C(N1)NC(=O)OC | C7H9N3O3S
solvent | toluene | 2.8 ml | C1(=CC=CC=C1)C | C7H8
product | 3-methoxycarbonylaminoimidazo[5,1-b]thiazole | 417.5 mg | COC(=O)NC=1N2C(SC1)=CN=C2 | C7H7N3O2S
